US07045545B1
2-methyl-2-(5-fluorobenzofur-7-yl)propionamide
A mixture of 0.156 gm (0.62 mMol) ethyl 2-methyl-2-(5-fluorobenzofur-7-yl)propionate, 0.095 gm (2.12 mMol) formamide, and 0.44 mL (0.44 mMol) sodium methoxide (1.0 M in methanol) in 3 mL dimethylformamide was heated at 100° C. for 45 minutes. The reaction mixture was diluted with ethyl acetate and the organics washed sequentially with water and saturated aqueous sodium chloride. The organics were then concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with 2:1 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.060 gm (25%) of the desired compound.

reactant | ethyl 2-methyl-2-(5-fluorobenzofur-7-yl)propionate | 0.62 mMol, 0.156 gm | CC(C(=O)OCC)(C)C1=CC(=CC=2C=COC21)F | C14H15FO3
reactant | formamide | 2.12 mMol, 0.095 gm | C(=O)N | CH3NO
reactant | sodium methoxide | 0.44 mMol, 1.0 M, 0.44 mL | C[O-].[Na+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2-(5-fluorobenzofur-7-yl)propionamide | 0.060 gm, 25% | CC(C(=O)N)(C)C1=CC(=CC=2C=COC21)F | C12H12FNO2
